US05011947
1,1-Dimethylethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1,1-dimethylethyl)-oxo-6,8-nonadienoate
The dianion of 1,1-dimethylethyl acetoacetate (9.1 mL of 1M solution, 9.1 mmol) was added to a solution of 5,5-bis-(4-fluorophenyl)-4-(1,1-dimethylethyl)-2,4-pentadienal in 30 mL of tetrahydrofuran at -60° C. The solution was quenched with 2N hydrochloric acid and the mixture extracted with diethyl ether. The extracts were dried and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 0.5% methanol in methylene chloride to give 1.3 g of the title compound; m.p. =95°-97° C.

reactant | 1,1-dimethylethyl acetoacetate | 9.1 mmol, 1M, 9.1 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 5,5-bis-(4-fluorophenyl)-4-(1,1-dimethylethyl)-2,4-pentadienal | FC1=CC=C(C=C1)C(=C(C=CC=O)C(C)(C)C)C1=CC=C(C=C1)F | C21H20F2O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1,1-dimethylethyl)-oxo-6,8-nonadienoate | 1.3 g | FC1=CC=C(C=C1)C(=C(C=CC(CCC(C(=O)OC(C)(C)C)=O)O)C(C)(C)C)C1=CC=C(C=C1)F | C29H34F2O4
